US07166595B2
a) 1-Benzyl-2-(1-tert-butoxycarbonylamino-2-methyl-propyl)-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid ethyl ester
Following the procedure of Veale, J. Org. Chem., 58,4490 (1993), to [1-(N-Benzyl-carbamimidoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester (10.86 g, 35.6 mmol) in methanol (160 mL) was added diethyl ethoxymethylenemalonate (7.7 g, 35.6 mmol). The reaction is equipped with a Dean-Stark trap. The reaction was heated at 100° C. until all solvent was removed. The residue was dissolved in methylene chloride, washed with 1 N HCl and water, dried (Na2SO4), and concentrated. The resulting pale yellow syrup was used in the next step without further purification.

reactant | [1-(N-Benzyl-carbamimidoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 35.6 mmol, 10.86 g | C(C)(C)(C)OC(NC(C(C)C)C(NCC1=CC=CC=C1)=N)=O | C17H27N3O2
reactant | diethyl ethoxymethylenemalonate | 35.6 mmol, 7.7 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | methanol | 160 mL | CO | CH4O
product | 1-Benzyl-2-(1-tert-butoxycarbonylamino-2-methyl-propyl)-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C(N(C1=O)CC1=CC=CC=C1)C(C(C)C)NC(=O)OC(C)(C)C | C23H31N3O5
